data/oMe_Silver.jsonl
{"reaction_id": "NR-312_10-F_1-c2ccc(C(C)(C)C)cc2_2-C(F)(F)F_3-C_4-N(C(C)C)C(C)C_5-C(=O)OC_6-C(=O)C_7-C(C)(C)C_8-c2ccc(C(F)(F)F)cc2_9-CC","level": "easy","name": "Ullmann Condensation","reactants_smiles": ["c1(c2ccc(C(C)(C)C)cc2)c(C(F)(F)F)c(C)c(N(C(C)C)C(C)C)c(C(=O)OC)c1O","c1(C(=O)C)c(C(C)(C)C)c(c2ccc(C(F)(F)F)cc2)c(CC)c(F)c1I"],"products_smiles": ["c1(c2ccc(C(C)(C)C)cc2)c(C(F)(F)F)c(C)c(N(C(C)C)C(C)C)c(C(=O)OC)c1Oc2c(C(=O)C)c(C(C)(C)C)c(c2ccc(C(F)(F)F)cc2)c(CC)c2(F)"],"conditions": "CuI, Base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(c2ccc(C(C)(C)C)cc2)c(C(F)(F)F)c(C)c(N(C(C)C)C(C)C)c(C(=O)OC)c1[O-]","step_weight": 0,"rationale": "Base deprotonates phenol because the phenolic proton is acidic and the resulting phenoxide is resonance-stabilized, increasing nucleophilicity for subsequent copper-mediated coupling."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(C(=O)C)c(C(C)(C)C)c(c2ccc(C(F)(F)F)cc2)c(CC)c(F)c1[Cu](I)I","step_weight": 0,"rationale": "Cu(I) undergoes oxidative addition into the aryl–iodine bond due to the good leaving group ability of iodide and the polarizable C–I bond, forming a reactive aryl–Cu(III) species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c2(C(=O)C)c(C(C)(C)C)c(c2ccc(C(F)(F)F)cc2)c(CC)c(F)c2[Cu](I)Oc1c(c2ccc(C(C)(C)C)cc2)c(C(F)(F)F)c(C)c(N(C(C)C)C(C)C)c1(C(=O)OC)","step_weight": 0,"rationale": "The phenoxide oxygen attacks the aryl–Cu complex via nucleophilic substitution, favored by the strong Cu–O bond formation and the activated aryl group bound to copper."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(c2ccc(C(C)(C)C)cc2)c(C(F)(F)F)c(C)c(N(C(C)C)C(C)C)c(C(=O)OC)c1Oc2c(C(=O)C)c(C(C)(C)C)c(c2ccc(C(F)(F)F)cc2)c(CC)c2(F)","step_weight": 0,"rationale": "Reductive elimination from Cu(III) forms the C–O bond of the biaryl ether, driven by the thermodynamic stability of the product and regeneration of the Cu(I) catalyst."}],"description": "In the Ullmann condensation, the phenol is first deprotonated by base to form a nucleophilic phenoxide. Copper(I) catalyzes the coupling by oxidative addition to the aryl iodide, enabling nucleophilic attack and subsequent reductive elimination to form the biaryl ether linkage."}
{"reaction_id": "NR-236_1-c1ccc(C(F)(F)F)cc1_2-C(C)(C)C","level": "medium","name": "Sommelet Reaction","reactants_smiles": ["c1ccc(C(F)(F)F)cc1C(C(C)(C)C)Br","C1N2CN3CN1CN(C2)C3"],"products_smiles": ["c1ccc(C(F)(F)F)cc1C(C(C)(C)C)=O"],"conditions": "H2O","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C1N2CN3CN1C[N+](C(c1ccc(C(F)(F)F)cc1)(C(C)(C)C))(C2)C3","step_weight": 0,"rationale": "The benzylic carbon is highly electrophilic due to resonance stabilization of the developing cation, and bromide is a good leaving group, enabling nucleophilic substitution by hexamine to form a stable quaternary ammonium salt."},{"step": 2,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C1N2[CH2]N(C[N+]1=[CH2])CN(C2)C(c1ccc(C(F)(F)F)cc1)(C(C)(C)C)","step_weight": 0,"rationale": "The quaternary ammonium salt undergoes [2,3]-sigmatropic rearrangement driven by relief of ring strain and formation of a conjugated iminium system, which is stabilized by adjacent aromatic or electron-donating effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[CH2]1N2CN(C[N]1C)C[N+](C2)=C(c1ccc(C(F)(F)F)cc1)(C(C)(C)C)","step_weight": 0,"rationale": "Water, abundant under the reaction conditions, attacks the electrophilic iminium carbon due to its strong partial positive charge, forming a carbinolamine intermediate stabilized by adjacent nitrogen."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1ccc(C(F)(F)F)cc1C(C(C)(C)C)=O","step_weight": 0,"rationale": "The carbinolamine eliminates the amine, favored by the stability of the departing amine and the formation of a strong C=O bond in the aldehyde product."}],"description": "Hexamine attacks the benzylic bromide to form a stable quaternary ammonium salt, which rearranges via a [2,3]-sigmatropic shift to an iminium ion. Hydrolysis under aqueous conditions converts the iminium to a carbinolamine, which eliminates amine to yield the aldehyde."}
